US07745642B2
Description 4: 2-Methyl-2-(1-pyrrolidinyl)propanenitrile
To a stirred, ice-cooled mixture of pyrrolidine (8.35 ml; 0.1 mol) and acetone (7.34 ml; 0.1 mol) was added a solution of potassium cyanide (6.51 g; 0.1 mol) in water (50 ml) dropwise over 10 min. After stirring at room temperature overnight, the crude reaction mixture was extracted with diethyl ether (2×250 ml) and the combined extracts washed with saturated brine (150 ml), dried (MgSO4), and evaporated under reduced pressure to afford the title product as a pale green liquid (10.7 g; 78%) which was used without further purification. 1H NMR (CDCl3) δ: 1.51 (6H, s), 1.80-1.90 (4H, m), 2.70-2.80 (4H, m).

reactant | pyrrolidine | 0.1 mol, 8.35 ml | N1CCCC1 | C4H9N
reactant | acetone | 0.1 mol, 7.34 ml | CC(=O)C | C3H6O
reactant | potassium cyanide | 0.1 mol, 6.51 g | [C-]#N.[K+]
solvent | water | 50 ml | O | H2O
product | 2-Methyl-2-(1-pyrrolidinyl)propanenitrile | 10.7 g, 78% | CC(C#N)(C)N1CCCC1 | C8H14N2
